US08258144B2
To a solution of 4-nitrobenzenesulfonyl chloride (512 mg, 2.31 mmol) in CH2Cl2 (8 mL) at room temperature, 4-hydroxypiperidine (404 mg, 4.00 mmol) was added. Triethylamine (0.400 mL, 2.88 mmol) was also added. The mixture was stirred at room temperature overnight. Water and EtOAc were added. The organic phase was separated, washed with 1N HCl, dried over Na2SO4, concentrated in vacuo to give 1-(4-nitrophenylsulfonyl)piperidin-4-ol as a solid (559 mg).

reactant | 4-nitrobenzenesulfonyl chloride | 2.31 mmol, 512 mg | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | 4-hydroxypiperidine | 4.00 mmol, 404 mg | OC1CCNCC1 | C5H11NO
reactant | Triethylamine | 2.88 mmol, 0.400 mL | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-(4-nitrophenylsulfonyl)piperidin-4-ol | 559 mg | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)N1CCC(CC1)O | C11H14N2O5S
